US08034812B2
Production of N-{5-[(2-aminoimidazo[1,2-b]pyridazin-6-yl)oxy]-2-fluorophenyl}-1,3-dimethyl-1H-pyrazole-5-carboxamide.hydrochloride
To a suspension of N-[4-chloro-5-({2-[(cyclopropylcarbonyl)amino]imidazo[1,2-b]pyridazin-6-yl}oxy)-2-fluorophenyl]-1,3-dimethyl-1H-pyrazole-5-carboxamide (2.0 g, 4.72 mmol) in methanol (20 mL) was added 4N hydrochloric acid/ethyl acetate (16 mL) solution. After stirring at room temperature for 4 hr, the mixture was stirred at 50° C. for 12 hr. The solvent was evaporated under reduced pressure, and diisopropyl ether/ethanol (8 mL/2 mL) was added to the residue. The mixture was stirred at room temperature for 2 hr. The precipitate was collected by filtration and washed with diisopropyl ether to give the title compound (2.0 g, quant.) as a brown powder.

reactant | N-[4-chloro-5-({2-[(cyclopropylcarbonyl)amino]imidazo[1,2-b]pyridazin-6-yl}oxy)-2-fluorophenyl]-1,3-dimethyl-1H-pyrazole-5-carboxamide | 4.72 mmol, 2.0 g | ClC1=CC(=C(C=C1OC=1C=CC=2N(N1)C=C(N2)NC(=O)C2CC2)NC(=O)C2=CC(=NN2C)C)F | C22H19ClFN7O3
reactant | hydrochloric acid ethyl acetate | 4N, 16 mL | Cl.C(C)(=O)OCC
solvent | methanol | 20 mL | CO | CH4O
product | N-{5-[(2-aminoimidazo[1,2-b]pyridazin-6-yl)oxy]-2-fluorophenyl}-1,3-dimethyl-1H-pyrazole-5-carboxamide.hydrochloride | 2.0 g | Cl.NC=1N=C2N(N=C(C=C2)OC=2C=CC(=C(C2)NC(=O)C2=CC(=NN2C)C)F)C1 | InChI=1S/C18H16FN7O2.ClH/c1-10-7-14(25(2)23-10)18(27)21-13-8-11(3-4-12(13)19)28-17-6-5-16-22-15(20)9-26(16)24-17;/h3-9H,20H2,1-2H3,(H,21,27);1H
